US05859014
A mixture of 1-[2-(2,2,2-trifluoroethoxy)-4-methoxyphenyl]piperazine (1.87 g, 6.4 mmol) and 48% aqueous hydrobromic acid (5 mL) was heated 17 hours at reflux. The reaction mixture was allowed lo cool and then concentrated in vacuo. The residue was dissolved in ethanol (10 mL) at approximately 55° C. and the solution was cooled to 0° C. The solids were collected, washed with cold ethanol (3×10 mL) and dried in vacuo at approximately 80° C. to give 1-[2-(2,2,2-trifluoroethoxy)-4-hydroxyphenyl]piperazine hydrobromide, m.p. 190-194. Anal.: Calcd. for C12H14F3N2O2.(HBr)0.5. H2O: C, 43.00; H, 5.27; N, 8.37%; Found: C, 43.41; H, 4.97; N, 8.36%.

reactant | 1-[2-(2,2,2-trifluoroethoxy)-4-methoxyphenyl]piperazine | 6.4 mmol, 1.87 g | FC(COC1=C(C=CC(=C1)OC)N1CCNCC1)(F)F | C13H17F3N2O2
reactant | hydrobromic acid | 5 mL | Br | BrH
product | 1-[2-(2,2,2-trifluoroethoxy)-4-hydroxyphenyl]piperazine hydrobromide | Br.FC(COC1=C(C=CC(=C1)O)N1CCNCC1)(F)F | InChI=1S/C12H15F3N2O2.BrH/c13-12(14,15)8-19-11-7-9(18)1-2-10(11)17-5-3-16-4-6-17;/h1-2,7,16,18H,3-6,8H2;1H
